Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Phenergan ___
 
Attending: ___.
 
Chief Complaint:
Worsening cellulitis
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ woman with history of 
insulin-dependent diabetes mellitus, ___'s thyroiditis, 
vitamin D deficiency, and recurrent lower extremity cellulitis 
who presented to the emergency room overnight with chief 
complaint of worsening left leg cellulitis. The patient has had 
pain over the last few days, throbbing ache at rest and sharp 
___ with ambulation. She had been seen in the emergency room 
two days prior to admission. She did not have any erythema but 
given her history was discharged with a prescription for Vicodin 
for pain control and Keflex and completed four doses. However, 
beginning last night, she noticed the development of gradually 
enlarging red areas - initially over medial thigh, now also on 
calf. Additionally, she had a temperature to 100.7 on day prior 
admission.  
.  
Her initial vital signs in the emergency ward were T 98.9, HR 
100, BP 160/55, RR 16, satting 100% on RA. Review of systems was 
positive for fevers and chills. Labs were notable for white 
count of 22 with 90% polys and no bands. Hematocrit was 32.6 
(down from baseline high ___ with MCV of 77. Chemistry showed 
creatinine of 1.1 (slightly above baseline of ~0.9). Lactate was 
1.5. Notably, the serum blood glucose was 331. Blood cultures 
were drawn, the patient was given 1 gram of IV vancomycin, 4 mg 
of IV morphine, and admitted for treatment of cellulitis. Her 
vitals at time of admission were 98.8, 97, 134/61, 18, 97% RA.  
.  
Currently, patient endorses spreading redness in the right leg. 
Pain improved with morphine, ___ ___nd ___ with movement. 
No recent falls or trauma, no obvious portal of entry. She 
reports a history of at least 13 episodes of cellulitis - first 
time at age ___ s/p spider bite but subsequently with no clear 
triggers. Her last hospitalization was here in ___ for RLE 
cellulitis, for which she was treated with vanc/zosyn and also 
had an echo to r/o endocarditis given murmur. Pt reports an 
immunodeficiency work-up in the past by ID has been negative.  
.  
ROS: Chronic leg edema (R>L) stable. Also with mild nausea ___ 
vicodin, no vomiting. Chronic diarrhea from gastroparesis ___ 
loose stools daily). Patient does endorse decreased appetite due 
to general unwell feeling. Also mild tension headache earlier. 
No cold symptoms. No urinary symptoms.  
 
Past Medical History:
Diabetes Mellitus Type I (diagnosed in childhood)
Hypertension
PCOS
Recurrent RLE cellulitis
L foot tinea pedis
 
Social History:
___
Family History:
Mother with hypothyroidism, celiac disease, age ___. Father with 
OA, anemia, age ___. Sister with superficial venous thrombosis. 
Paternal grandmother with protein S deficiency (pt checked and 
negative). Maternal great-aunt with skin cancer. Another 
maternal grand-aunt bladder cancer in ___. Maternal grandfather 
with lung ca, smoker. No immunodeficiencies. 
 
Physical Exam:
General: Well appearing female in NAD.  
Vitals: T 98.8, P 97, BP 134/96, RR 18, O2sat 97RA.  
HEENT: NCAT, sclera anicteric, mmm, oropharynx clear.  
Neck: Supple, no LAD.  
Heart: RRR, normal S1-S2, ___ systolic mm loudest at upper 
sternal border, no rubs or gallops.  
Lungs: CTA b/l.  
Abdomen: BS+, soft, obese, NT, ND.  
Extremities: WWP, 2+ pulses, nonpitting edema b/l, 15x25cm patch 
of erythema on medial left thigh and 8x7cm patch of erythema on 
left medial calf extending beyond old outlines, +TTP. Central 
area on left thigh more erythematous and tender but no 
appreciable fluctuance. Dry eczematous patch on foot but not 
contiguous to cellulitic area. No stigmata of endocarditis.  
Neurological: AAOx3. Nonfocal. 
 
Pertinent Results:
On Discharge:
   WBC RBC  Hgb   Hct   MCV MCH   MCHC RDW Plt Ct 
   8.0 4.33 11.1* 32.8* 76* 25.7* 33.9 13.3 293
Glucose UreaN Creat Na  K   Cl HCO3 AnGap 
227      14    0.7  133 4.3 96  27  14 
.
calTIBC Hapto Ferritn TRF 
225*     162* 173* 
.
___ 01:35AM   WBC-21.7*# RBC-4.26 HGB-11.2* HCT-32.6* 
MCV-77* MCH-26.3* MCHC-34.4 RDW-13.3
___ 01:35AM   NEUTS-89.9* LYMPHS-6.2* MONOS-2.2 EOS-1.6 
BASOS-0.1
___ 01:35AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-2+ POLYCHROM-NORMAL BURR-1+
___ 01:35AM   PLT COUNT-182
___ 03:17PM   GLUCOSE-235* UREA N-10 CREAT-0.9 SODIUM-132* 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-23 ANION GAP-13
___ 03:05AM URINE  UCG-NEGATIVE
___ 03:05AM URINE  GR HOLD-HOLD
___ 03:05AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:05AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 01:35AM   TSH-<0.02*
___ 01:35AM   CK(CPK)-85
___ 01:35AM   IgG-999
.
MRI thigh:
Subcutaneous edema, mainly in the upper/inner left thigh, 
extends to
myofascial margin, with mildly increased signal in adductor and 
sartorius
muscles. No abscess or fluid collection. Normal marrow signal. 
Findings
most consistent with cellulitis with mild myositis.
.
Preliminary Report !! WET READ !!
Edema in L calf subcutaneous tissues, but no fluid collection or 
other sign of
abscess. Mild edema in left medial gastrocnemius muscle. Normal 
bone marrow
signal. Findings most consistent with cellulitis/myositis.
.
Ultrasound:
LEFT LOWER EXTREMITY
 
FINDINGS: Areas of marked redness with marker were evaluated 
with ultrasound.
There is no evidence of fluid collection in the left medial 
proximal, mid anddistal thigh and left medial, proximal and mid 
calf.
IMPRESSION: No fluid collection at marked areas of skin redness 
(left medial proximal, mid and distal thigh) and left 
proximal-mid medial calf.
The study and the report were reviewed by the staff radiologist.
.
Lenis:
IMPRESSION: No evidence of deep venous thrombosis in the left 
lower
extremity. Left peroneal veins not visualized
 
Brief Hospital Course:
# Left thigh cellulitis: Pt has history of >10 episodes of 
cellulitis. There was no clear precipitant that injured the 
epidermis. ? if shaving introduced skin pathogen Patient 
initially presented to ED and discharged with course of Keflex. 
Infection progressed and patient represented and started on IV 
vanc and zosyn on night of admission, cellulitis was marked. 
Exam improved and PIV access lost. Patient then transitioned to 
PO regimen linezolid/cipro. Spiked on ___ however WBC 
downtrending. US obtained which was negative for DVT and fluid 
collection. ID consulted who favored continuing PO antibiotics 
and foregoing PICC placement.MRI of leg ordered to definitely 
rule out infection which was negative for fluid 
collection/abscess with reading consistent with 
cellulitis/myositis. CK added on. Pending at time of discharge. 
Patient discharged with plan to complete an additional 14days of 
linezolid and cipro. Discharged with 5days of dilaudid for pain 
controlled.   
.
# HA - Pt with mild frontal HA on admission. Normal fundoscopic 
exam, no N/v/photphobia. Most likely secondarily to poor sleep 
and infection. She was stable throught admission.
.  
# Diabetes mellitus, insulin dependent:  Most recent A1c 8. 
Serum glucose elevated on admission up to mid ___. ___ was 
consulted per protocol (insulin pump) and her basal rate was 
increased for 24 hours. Then her sugars were well controlled and 
she was discharged in her home regimen.
.
#. Thyroid: TSH <0.1, so levothyroxine was decreased from 50 to 
25 mg daily. She was instructed in taking it in empty stomach 
without any calcium.
.  
# Hypertension. Normotensive in house on home regimen of 
lisinopril 5mg daily, labetalol 200mg bid.  
.  
.  
# Gastroparesis. Cont nortriptyline 5 mg qhs and omeprazole 20 
mg once daily  
.  

# Communication: With patient. Husband ___ is HCP 
(___)  
.
# Code status: Full (confirmed)  
 
Medications on Admission:
- ammonium lactate 12% cream to feet bid prn  
- cephalexin 500 mg qid  
- vicodin prn  
- dexamethasone 0.4% for use with lontophoresis per ___  
- vitamin D ___ units q weekly  
- insulin aspart in pump  
- labetalol 200 mg bid  
- levothyroxine 50 mcg qday  
- lisinopril 5 mg qday  
- nortriptyline 5 mg qhs  
- omeprazole 20 mg once daily  
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. nortriptyline 10 mg/5 mL Solution Sig: One (1)  PO HS (at 
bedtime).  
3. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
6. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day) as needed for Constipation.  
7. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
8. senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for Constipation.  
9. levothyroxine 50 mcg Tablet Sig: 0.5 Tablet PO DAILY (Daily). 
 
10. insulin pump cartridge  Subcutaneous
11. linezolid ___ mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
12. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
13. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain for 5 days.
Disp:*80 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Left leg cellultiis
.
Secondary Diagnosis
Diabetes Mellitus 1; uncontrolled.
Hypothyroidism (uncontrolled)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, you were admitted to ___ due to recurrent lower 
extremity skin infection known as cellutis.
.
You were initially seen in the ED and discharged home with PO 
Keflex. However symptoms did not improve and you were admitted 
for IV antibiotics, vancomycin and ciprofloxacin. Improvement 
was noted on your exam and you were switched to linezolid and 
ciprofloxacin PO.
Imaging was negative for deeper infection. 
.
Regarding your diabetes, your sugars were found to be high on 
admission. ___ was consulted who recommended increasing your 
basal insulin while you were infected. Your sugars were well 
controlled in house and at time of discharge.
.
.
Regarding your hypothyroidism, your thyroid hormone was checked 
while hospitalized and found to be elevated so your dose was 
decreased by half.
.
Your medication changes were as follows:
* we cut your levothyroxine in half (25 mg daily) given that 
your thyroid was high (TSH low)
* We started you on two antibiotics (linezolid and 
ciprofloxacin) that you will need for an additional 14 days 
course
* We started you on iron supplementation. Take one tablet twice 
daily.
.
If yours symptoms worsen you will need to return to the 
emergency room.
 
Followup Instructions:
___